US05077282
[(Phenylamino)[(4-phenyl-2-thiazolyl)amino]methylene]-phosphoramidic Acid, Diethyl Ester
A stirred suspension of 2.94 g (10 mmol) of 1-phenyl-3-(4-phenyl-2-thiazolyl) guanidine (dried at 110° C./0.1 mm) in 150 ml of methylene chloride was allowed to react with 2.03 g (10 mmol) of N,O-bis-(trimethylsilyl) acetamide and 1.73 g (10 mmol) of diethyl chlorophosphate for 3 months by the procedure of Example 4. The reaction mixture was evaporated to dryness then was subjected to "dry column" chromatography (method of B. Loev and M. M. Goodman, Chem. and Industry, 2026 (1967) on 500 g of silica gel, and developed with 700 ml of methylene chloride-ethyl acetate, 9/1 (v/v). A band in the Nylon® column at Rf 0.25-0.4, visualized as a dark band under ultraviolet light at 254 nm, was cut out, and extracted with chloroform-methanol, 3/1 (v/v). Evaporation of the extracts left 1.35 g of product as a pale yellow, thick syrup; NMR (CDCl3, 80 MHz) δ 1.37 (t, 6H, CH3), δ 4.11(5 peaks, 4H, OCH2), 6.98 (s, 1H, =CH--S), 7.35(m, 10H, aromatic); IR (neat) 1653 (C=N) and 1032 cm-1 (P=O); TLC (SiO2, CHCl3 --MEOH, 19/1 (v/v)) showed only one spot under UV light.

reactant | 1-phenyl-3-(4-phenyl-2-thiazolyl) guanidine | 10 mmol, 2.94 g | C1(=CC=CC=C1)NC(=N)NC=1SC=C(N1)C1=CC=CC=C1 | C16H14N4S
reactant | diethyl chlorophosphate | 10 mmol, 1.73 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | [(Phenylamino)[(4-phenyl-2-thiazolyl)amino]methylene]-phosphoramidic Acid, Diethyl Ester | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C1=CC=CC=C1)=NP(OCC)(OCC)=O | C20H23N4O3PS
